US07223776B2
59.d) (2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyl)-(1,2,5,6-tetrahydropyridin-3-ylmethyl)-amine
A solution of tert-butyl 5-{[(2,3-dihydro-benzo[1,4]-dioxin-6-ylmethyl)-amino]-methyl}-3,6-dihydro-2H-pyridine-1-carbamate (0.16 g, 0.44 mmol) in TFA (3 ml) was stirred at room temperature for 30 minutes, concentrated and taken up in saturated bicarbonate solution (30 ml) and dichloromethane (30 ml). The aqueous phase was extracted with dichloromethane (2×30 ml) and the combined organic phases were washed with saturated sodium chloride solution, dried over MgSO4 and concentrated.

reactant | tert-butyl 5-{[(2,3-dihydro-benzo[1,4]-dioxin-6-ylmethyl)-amino]-methyl}-3,6-dihydro-2H-pyridine-1-carbamate | 0.44 mmol, 0.16 g | O1CCOC2=C1C=CC(=C2)CNCC2=CCCN(C2)NC(=O)OC(C)(C)C | C20H29N3O4
solvent | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyl)-(1,2,5,6-tetrahydropyridin-3-ylmethyl)-amine | O1CCOC2=C1C=CC(=C2)CNCC=2CNCCC2 | C15H20N2O2
